US07576091B2
Methyl-(2-methyl-4,5-dihydro-thiazolo[4,5-h]quinazolin-8-yl)-(3-nitro-phenyl)-amine
To a solution of (2-methyl-4,5-dihydro-thiazolo[4,5-h]quinazolin-8-yl)-(3-nitro-phenyl)-amine (100 mg, 0.3 mmol) in dry DMF (2 mL) was added NaH (7.8 mg, 0.3 mmol) under anhydrous conditions. Once H2 evolution had ceased, iodomethane (22 μL, 50 mg, 0.4 mmol) was added dropwise and the mixture was stirred at room temperature overnight. It was then concentrated under vacuum and H2O (20 mL) was added. The product was extracted with CH2Cl2 (3×30 mL). The combined extracts were dried, filtered, and concentrated under vacuum. Flash column chromatography (10% EtOAc:hexane) afforded the pure title product as a yellow solid (40 mg, 38%): mp 203-204° C. Anal. RP-HPLC: tR 17.1 min (10-70% MeCN, purity 85%). 1H-NMR (CDCl3): δ 8.30 (t, 1H, J 2.3, Ph-H), 8.11 (s, 1H, Py-H), 7.95 (ddd, 1H, J 8.2, 2.3, 1.0, Ph-H), 7.65 (ddd, 1H, J 8.2, 2.3, 1.0, Ph-H), 7.44 (t, 1H, J 8.2, Ph-H), 3.58 (s, 3H, N—CH3), 2.98 (m, 4H, CH2—CH2), 2.69 (s, 3H, CH3). 13C-NMR (CDCl3): δ 169.86, 160.70, 159.30, 157.05, 155.27, 148.71, 146.74, 131.42, 129.33, 120.81, 119.36, 116.63, 38.18, 25.68, 24.22, 20.17. MS (ESI+): m/z 354.09 (M+H)+.

reactant | (2-methyl-4,5-dihydro-thiazolo[4,5-h]quinazolin-8-yl)-(3-nitro-phenyl)-amine | 0.3 mmol, 100 mg | CC=1SC2=C(CCC=3C=NC(=NC23)NC2=CC(=CC=C2)[N+](=O)[O-])N1 | C16H13N5O2S
reactant | NaH | 0.3 mmol, 7.8 mg | [H-].[Na+]
reactant | iodomethane | 0.4 mmol, 22 μL, 50 mg | IC | CH3I
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | Methyl-(2-methyl-4,5-dihydro-thiazolo[4,5-h]quinazolin-8-yl)-(3-nitro-phenyl)-amine | 40 mg, 38% | CN(C1=CC(=CC=C1)[N+](=O)[O-])C1=NC=2C3=C(CCC2C=N1)N=C(S3)C | C17H15N5O2S
